US09290517B2
Step B: 1-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]-2-methyl-propan-2-ol
A mixture of 1-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]-2-methyl-propan-2-ol (66 mg, 0.104 mmol) in TFA (0.5 mL) and DCM (1.0 mL) was stirred at room temperature. After 1.5 hours, the reaction mixture was concentrated under reduced pressure to give an oil. The oil was dissolved in EtOH (1 mL) and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient. The desired fractions were lyophilized to give the title compound as a solid. Major isomer LC-MS: calculated for C28H28ClN3O4 505.18 observed m/e: 506.23 (M+H)+ (Rt 1.16/2 min); 1H NMR δ (ppm) (CD3OD): 7.87 (s, 1H), 7.75 (ABq, 4H), 7.71 (d, 2H), 7.48 (dd, 2H), 7.38 (dd, 1H), 5.56 (qt, 1H), 4.96 (t, 1H), 4.54 (t, 1H), 4.10-4.00 (m, 3H), 3.51 (dd, 1H), 2.63 (m, 1H), 2.59 (m, 1H), 1.95 (dd, 1H), 1.58 (dd, 1H) and 1.25 (s, 3H).

reactant | 1-[(3aR,6R,6aS)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]-2-methyl-propan-2-ol | 0.104 mmol, 66 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(C)(O)C | C34H42ClN3O5Si
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 1 mL | CCO | C2H6O
product | 1-[(3aR,6R,6aS)-6-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]-2-methyl-propan-2-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OCC1CC(C)(O)C | C28H28ClN3O4
